US07649011B2
3,4,5-Trimethoxy-N-(2-methyl-3-phenyl-allyl)-N-(2-(R)-pyrrolidin-2-yl-ethyl)-benzamide
Experimental condition analogous to Example 13 were used with 2-[2-(2-Methyl-3-phenyl-allylamino)]-ethyl-(R) pyrrolidine-1-carboxylic acid tert-butyl ester (prepared from (R)-Pyrrolidine-1,2-dicarboxylic acid-1-tert-butyl ester according to the scheme 3) 0.6 g (2 mmol), 3,4,5-trimethoxy benzoic acid 0.51 g (2.4 mmol), O-(benzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate 1.3 g (4 mmol) and triethylamine 0.2 ml. The intermediate 2-{2-[(2-methyl-3-phenyl-allyl)-(3,4,5-trimethoxy-benzoyl)-amino-]-ethyl}-pyrrolidine-1-carboxylic acid tert-butyl ester was dissolved in 10 ml of dioxane and 5 ml of 6 N HCl, yielding 0.35 g of the compound after basic work-up and purification. Yield: 39%.

reactant | (R)-Pyrrolidine-1,2-dicarboxylic acid-1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)O | C10H17NO4
reactant | 3,4,5-trimethoxy benzoic acid | 2.4 mmol, 0.51 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | O-(benzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 4 mmol, 1.3 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 2-{2-[(2-methyl-3-phenyl-allyl)-(3,4,5-trimethoxy-benzoyl)-amino-]-ethyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)CCN(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CC(=CC1=CC=CC=C1)C | C31H42N2O6
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | HCl | 6 N, 5 ml | Cl | ClH
solvent | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
product | 3,4,5-Trimethoxy-N-(2-methyl-3-phenyl-allyl)-N-(2-(R)-pyrrolidin-2-yl-ethyl)-benzamide | 0.35 g, Yield: 39% | COC=1C=C(C(=O)N(CC[C@@H]2NCCC2)CC(=CC2=CC=CC=C2)C)C=C(C1OC)OC | C26H34N2O4
